US06903091B2
Step A. 4′-Methoxy-[1,1′-biphenyl]-4-carboxylic Acid Ethyl Ester
A mixture of 4-bromobenzoic acid ethyl ester (2.7 mL, 16.5 mmol), 4-methoxy phenylboronic acid (2.5 g, 16.5 mmol) and sodium carbonate (7.7 g, 72.6 mmol) in toluene:ethanol:water (75 mL:37 mL:37 mL) was flushed with nitrogen for 1 hour. After addition of the tetrakis(triphenylphosphine) palladium (0) catalyst (0.95 g, 0.82 mmol), the reaction was heated at 100° C. overnight. After cooling, the mixture was filtered through Celite which was then washed with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give a brown solid. Purification of the residue by flash chromatography with a solvent gradient from 25% to 50% of dichloromethane in hexane provided the title compound (4.05 g, 95.8%) as a pale yellow solid, m.p. 101-103° C.

reactant | 4-bromobenzoic acid ethyl ester | 16.5 mmol, 2.7 mL | C(C)OC(C1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | 4-methoxy phenylboronic acid | 16.5 mmol, 2.5 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 72.6 mmol, 7.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.82 mmol, 0.95 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4′-Methoxy-[1,1′-biphenyl]-4-carboxylic Acid Ethyl Ester | 4.05 g, 95.8% | C(C)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C16H16O3
